* C:\Users\ikene\OneDrive\Documents\temporary zvs\Simulation\Working ZVS Converter.asc
V1 N002 0 80
M1 SA N001 N002 N002 BSC16DN25NS3
M2 SB N003 0 0 BSC16DN25NS3
D2 SB OUT RB168LAM150
C1 SA 0 0.1µ
C2 SB 0 0.1µ
V2 N003 0 PULSE(0 12 0 1n 1n 35n 100n)
V3 N001 0 PULSE(0 12 0 1n 1n 70n 100n)
D1 0 SA RB168LAM150
L1 SB SA 10µ
C3 OUT 0 20µ
V4 OUT 0 120
.model D D
.lib C:\Users\ikene\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ikene\AppData\Local\LTspice\lib\cmp\standard.mos
* SubArray Voltage ~ 75-80v max under optimal conditions
* Battery Voltage is 120v, but may change
* Start with both switches on. Then switch B shuts off.\nThen switch A shuts off. After a period of time the\nthe cycle restarts and both are on.
.tran 0 5m 0 100n
.backanno
.end
